US08110575B2
4-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)-pyridine-3-carboxylic acid
0.13 g (0.92 mmol) of 2-fluoropyridine-3-carboxylic acid and 20 μL (0.08 mmol) of a 4M aqueous HCl solution were added to 0.20 g (0.78 mmol) 5-amino-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one in 5.0 mL of 2-propanol. The reaction mixture was refluxed for 2 h, then cooled to RT and the resulting solid was filtered off and dried.

reactant | 2-fluoropyridine-3-carboxylic acid | 0.92 mmol, 0.13 g | FC1=NC=CC=C1C(=O)O | C6H4FNO2
reactant | HCl | 4M | Cl | ClH
reactant | 5-amino-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | 0.78 mmol, 0.20 g | NC=1C=C2CC3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C15H13N3O
solvent | 2-propanol | 5.0 mL | CC(C)O | C3H8O
product | 4-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)-pyridine-3-carboxylic acid | O=C1C2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)NC2=C(C=NC=C2)C(=O)O | C21H16N4O3
